simulator lang=spectre
global 0

ahdl_include "./dut/differential_pair_gm_limiter.va"

Vvinp (vinp 0) vsource type=pwl wave=[0 0.30 8n 0.30 16n 0.70 28n 0.70 38n 0.20 48n 0.20 62n 0.62 76n 0.62]
Vvinn (vinn 0) vsource type=pwl wave=[0 0.52 8n 0.52 16n 0.40 28n 0.40 38n 0.58 48n 0.58 62n 0.50 76n 0.50]
Vbias (bias 0) vsource dc=0.45
Venable (enable 0) vsource type=pwl wave=[0 0 4n 0 4.1n 0.9 50n 0.9 50.1n 0 57n 0 57.1n 0.9 76n 0.9]

XDUT (vinp vinn bias enable voutp voutn gm_metric limit_flag) differential_pair_gm_limiter


simulatorOptions options evas_profile=balanced

tran tran stop=76n maxstep=80p
save vinp vinn bias enable voutp voutn gm_metric limit_flag
